US07781438B2
3-(6-Chloro-3-dimethylaminomethyl-isoquinolin-5-yl)-4-(1-methyl-1H-indol-3-yl)-pyrrole-2,5-dione
To a solution of 2-(6-chloro-3-dimethylaminomethyl-isoquinolin-5-yl)-acetamide (47 mg, 0.17 mmol) and (1-methyl-1H-indol-3-yl)-oxo-acetic acid methyl ester (56 mg, 0.26 mmol) in anhydrous THF was added dropwise a 1 M solution of potassium t-BuOK in THF (1.8 mL) under an argon atmosphere at 0° C. The resulting deep red reaction mixture was stirred for 1.5 h at 0° C., quenched with a saturated aqueous NH4Cl solution and extracted twice with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated at reduced pressure. Purification by flash column chromatography (silica gel, EtOAc/water/acetic acid 7:1:1) afforded the title compound as its acetate salt (61 mg, 0.12 mmol, 70%). MS (ES+): 445 (M(C25H2135ClN4O2)+H)+.

reactant | 2-(6-chloro-3-dimethylaminomethyl-isoquinolin-5-yl)-acetamide | 0.17 mmol, 47 mg | ClC=1C(=C2C=C(N=CC2=CC1)CN(C)C)CC(=O)N | C14H16ClN3O
reactant | (1-methyl-1H-indol-3-yl)-oxo-acetic acid methyl ester | 0.26 mmol, 56 mg | COC(C(=O)C1=CN(C2=CC=CC=C12)C)=O | C12H11NO3
reactant | potassium t-BuOK | [K].CC(C)(C)[O-].[K+]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 1.8 mL | C1CCOC1 | C4H8O
product | 3-(6-Chloro-3-dimethylaminomethyl-isoquinolin-5-yl)-4-(1-methyl-1H-indol-3-yl)-pyrrole-2,5-dione | ClC=1C(=C2C=C(N=CC2=CC1)CN(C)C)C=1C(NC(C1C1=CN(C2=CC=CC=C12)C)=O)=O | C25H21ClN4O2
